Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right internal carotid artery stenosis
 
Major Surgical or Invasive Procedure:
___ - Right carotid endarterectomy
 
History of Present Illness:
___ is a ___ year old female with known right internal 
carotid artery stenosis who presented electively on ___ 
for a right carotid endarterectomy.
 
Past Medical History:
- alcohol abuse
- anxiety
- asthma
- bipolar disorder
- chronic obstructive pulmonary disease
- gastroesophageal reflux
- history of acute on chronic pancreatitis
- history of cervical cancer
- history of esophagitis
- history of gastritis
- history of pneumonia 
- history of right middle cerebral artery aneurysm status post 
cerebral angiogram for embolization in ___ with complete 
occlusion on follow-up evaluation
- history of seizures
- history of tobacco abuse
- history of venous thromboembolism
- hypertension
- pulmonary nodules
- status post bladder repair
- status post dental surgery
- status post external fixation and revision of right distal 
tibial fracture in ___
- status post removal of vocal cord polyps in ___
- status post 2 Cesarean sections
- status post 2 dilation and evacuations
- tachycardia
 
Social History:
___
Family History:
Unknown family history of aneurysms. 
 
Physical Exam:
On Discharge:
-------------
General:

Vital Signs: T ___, HR 80, BP 93/56, RR 18, O2Sat 93% on room 
air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious [ ]None
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils: Pupils equally round and reactive to light bilaterally
Extraocular Movements: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No    
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor: 

        Trapezius   Deltoid   Biceps   Triceps   Grip
Right   5           5         5        5         5 
Left    5           5         5        5         5

        IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right   5    5            5           5    5     5  
Left    5    5            5           5    5     5

Sensation: Intact to light touch.

Right Neck Incision:
- Clean, dry, intact
- Closed with absorbable sutures and Steri strips
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old female with known right internal carotid artery 
stenosis.

#Right internal carotid artery stenosis
The patient presented electively on ___ and was taken to 
the OR for a right carotid endarterectomy. The operation was 
uncomplicated. Please see OMR for further intraoperative 
details. The patient was extubated in the OR and recovered in 
the PACU. She was transferred to the step down unit 
postoperatively for close neurologic monitoring. Her PTT was 
monitored closely. Once her PTT normalized, she was started on a 
heparin drip, which was on until midnight, and then transitioned 
to aspirin 325mg by mouth once daily. She remained 
neurologically stable. She was eventually transferred to the 
floor. On ___, the patient was afebrile with stable vital 
signs, mobilizing independently, tolerating a diet, voiding and 
stooling without difficulty, and her pain was well controlled 
with oral pain medications. She was discharged home on 
___ in stable condition.

#Disposition
The patient was mobilized postoperatively and determined to be 
independent with mobilization. She was discharged home on 
___ in stable condition.
 
Medications on Admission:
- acetaminophen 500mg 2 tablets PO QID PRN 
- alendronate 10mg 1 tablet PO once daily
- aspirin ___ 81mg 1 tablet PO once daily
- atorvastatin 40mg 1 tablet PO once daily
- buspirone 15mg 1 tablet PO BID
- Creon 12,000 units - 38,000 units - 60,000 units 2 capsules PO 
TID
- cyclobenzaprine 10mg 1 tablet PO TID PRN
- folic acid 1mg 1 tablet PO once daily
- fluocinonide 0.05% topical cream 1 application TP BID PRN
- fluticasone propionate 50mcg/actuation nasal spray ___ puffs 
IN once daily PRN
- lactulose 10g/15mL oral solution ___ PO once daily PRN
- levetiracetam 500mg 1 tablet PO BID
- lisinopril 40mg 1 tablet PO once daily
- lorazepam 1mg 1 tablet PO TID
- ondansetron ODT 4mg 1 tablet PO Q8H PRN
- pantoprazole ___ 40mg 1 tablet PO BID
- ProAir HFA 90mcg/actuation aerosol inhaler 2 puffs IH Q4H PRN
- quetiapine 10mg 2 tablets PO QHS
- ranitidine 300mg capsule 1 capsule PO QHS PRN
- sertraline 25mg 1 tablet PO once daily 
- sucralfate 1g 1 tablet once daily PRN
- thiamine HCl 100mg 1 tablet PO once daily
- varenicline 1mg 1 tablet PO BID  
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
Do not take if having loose stools. ___ stop taking once off 
oxycodone.  
2.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
Do not drive while taking. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours as 
needed for pain Disp #*28 Tablet Refills:*0 
3.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*3 
4.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 3000mg in 24 hours.  
5.  Alendronate Sodium 10 mg PO DAILY  
6.  Atorvastatin 40 mg PO DAILY  
7.  BusPIRone 15 mg PO BID  
8.  Creon 12 2 CAP PO TID W/MEALS  
9.  Cyclobenzaprine 10 mg PO TID:PRN Muscle spasms  
10.  Fluocinonide 0.05% Cream 1 Appl TP BID:PRN Eczema  
11.  Fluticasone Propionate NASAL ___ SPRY NU DAILY:PRN 
Allergies  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Lactulose ___ mL PO DAILY:PRN Constipation  
14.  LevETIRAcetam 500 mg PO BID  
15.  Lisinopril 40 mg PO DAILY  
16.  LORazepam 1 mg PO TID  
17.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
18.  Pantoprazole 40 mg PO Q12H  
19.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN Shortness of breath, wheezing  
20.  QUEtiapine Fumarate 200 mg PO QHS  
21.  Ranitidine 300 mg PO QHS:PRN Gastrointestinal reflux  
22.  Sertraline 25 mg PO DAILY  
23.  Sucralfate 1 gm PO DAILY:PRN Peptic ulcers  
24.  Thiamine 100 mg PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right internal carotid artery stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.
 
Discharge Instructions:
Care Of The Surgical Incision:
- You have absorbable sutures in place, which do not need to be 
removed. 
- There are Steri strips over your surgical incision. Please 
leave them in place. If they have not fallen off after 14 days, 
you may carefully peel them off.
- You may shampoo your hair. Let the water run off the surgical 
incision. Do not rub, scrub, scratch, or pick at any scabs along 
the surgical incision.
- Do not use creams or ointments on your surgical incision. Keep 
it clean and open to air.

Activity:
- No heavy lifting for 1 month. Then slowly increase your 
activity at your own pace.
- No driving until cleared at follow-up.
- Do not operate any motorized vehicle or drink alcohol while 
taking narcotics.
- No sexual activity for 1 month.

Common Problems:
- Pain and loss of sensation over the surgical incision should 
resolve over the next ___ months.
- Swelling at the surgical incision should resolve over the next 
few weeks.
- Fatigue will slowly resolve over days to weeks.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. You may also try an over-the-counter 
stool softener if needed.

Please Call Your Neurosurgeon At ___ If You Experience:
- Severe pain, redness, swelling, or drainage from the surgical 
incision.
- Fever greater than 101.5 degrees Fahrenheit.
- Worsening headaches.
- Lethargy, nausea, or vomiting.
- Changes in vision, such as blurry vision, double vision, half 
vision, loss of vision, etc.
- Slurring of speech or difficulty finding the correct words to 
use.
- Stiff or painful neck.
- Difficulty swallowing.
- Difficulty moving or using your arms or legs.
- Difficulty feeling in your arms or legs.
- Any problems with your medications.
 
Followup Instructions:
___